US04672068
199 mg (0.5 mM) of 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (2,4-hexadienyl) ester, 44 mg (0.6 mM) of tert-butanol, 113 mg (0.55 mM) of dicyclohexylcarbodiimide and 61 mg (0.5 mM) of 4-dimethylaminopyridine were dissolved in 5 ml of dichloroethane, and refluxed for 2 hours. After the reaction mixture was chilled, insoluble matters were filtered off. The solvent was evaporated under reduced pressure, and the residue was purified by silicas gel column chromatography to obtain 198 mg of a crude material. This material was recrystallized with methanol, and 166 mg of tert-butyl 2,4-hexadienyl 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate was obtained (yield 73%).

reactant | 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylic acid mono (2,4-hexadienyl) ester | 0.5 mM, 199 mg | C(C=CC=CC)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O)C)C | C21H22N2O6
reactant | tert-butanol | 0.6 mM, 44 mg | C(C)(C)(C)O | C4H10O
reactant | dicyclohexylcarbodiimide | 0.55 mM, 113 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 0.5 mM, 61 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
product | tert-butyl 2,4-hexadienyl 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 166 mg, yield 73% | [N+](=O)([O-])C=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OCC=CC=CC)C)C)C(=O)OC(C)(C)C | C25H30N2O6
